data/mechanism_extracts/OrgChemFront/10.1039_D4QO01354A_sup_1.json
{"doi": "10.1039_D4QO01354A_sup_1", "journal": "OrgChemFront", "is_review": false, "rxn_class_summary": "Electrochemical three-component selenocyclization of diphenyl diselenide, methacryloyl chloride, and 2-mercaptobenzimidazole to construct selenium-containing benzimidazole-fused thiazinones.", "mechanism_family": ["radical_anodic", "mediator_anodic"], "electrochemical_role": "Anodic oxidation: TBPB acts as a redox mediator/initiator and PhSeSePh is oxidized at the anode to generate PhSe radical; cathode reduces protons/water to H2 (with D2O giving D-incorporation in the product).", "key_intermediates": [{"name": "phenylselenyl radical (PhSe•)", "smiles": "[Se]c1ccccc1", "role": "reactive"}, {"name": "carbon radical from PhSe• addition to methacryloyl chloride", "smiles": null, "role": "transient"}, {"name": "thiyl/N-acylated benzimidazole-2-thiol intermediate (after acylation by 2a)", "smiles": null, "role": "reactive"}, {"name": "C-centered radical alpha to carbonyl prior to H/D abstraction", "smiles": null, "role": "transient"}], "electron_flow": "TBPB mediates anodic oxidation of PhSeSePh to give PhSe•, which adds to the methacrylamide-type acceptor formed by N-acylation of 2-mercaptobenzimidazole with methacryloyl chloride; the resulting carbon radical cyclizes onto S and is reduced/protonated (D from D2O) while H2 evolves at the cathode.", "rate_determining_step": null, "probe_reagents": [{"name": "TEMPO", "smiles": "CC1(C)CCCC(C)(C)N1[O]", "purpose": "radical_trap", "observation": "Yield drops from 90% to 80% (0.8 equiv) and 54% (1.2 equiv), indicating radical involvement."}, {"name": "BHT", "smiles": "Cc1cc(C(C)(C)C)c(O)c(C(C)(C)C)c1", "purpose": "radical_trap", "observation": "Yield decreases to 70% (0.8 equiv) and 65% (1.2 equiv)."}, {"name": "1,1-diphenylethylene (DPE)", "smiles": "C(=C)(c1ccccc1)c1ccccc1", "purpose": "radical_trap", "observation": "Yield decreases to 67% (0.8 equiv) and 60% (1.2 equiv)."}, {"name": "D2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "96% D-incorporation at the methyl/CH position of product 6-d (95% yield), indicating proton (deuteron) source from water at the late stage."}], "evidence_types_used": ["H/D_labeling", "intermediate_trap_TEMPO", "intermediate_trap_BHT", "intermediate_trap_other", "cyclic_voltammetry", "product_isotope_distribution"], "evidence_strength": "medium", "notes": "CV shows an oxidation feature around 1.327 V when 1a (PhSeSePh) is added to TBPB/Cs2CO3/MeCN, supporting anodic oxidation of the diselenide (likely mediated by TBPB). Radical traps only partially suppress the reaction, suggesting a radical chain or partially caged radical pathway rather than free diffusing radicals exclusively."}
